US05877199
Benzyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate
A solution of 291 mg of benzyl 1,2,3,4-tetrahydrocarbazole-3-carboxylate, as obtained in Example 50, in 2 ml of N,N-dimethylformamide was added, with ice-cooling, to a suspension of 87 mg of sodium hydride (55% w/w dispersion in mineral oil) in 4 ml of N,N-dimethylformamide. 0.12 ml of benzoyl chloride was added to the reaction mixture which was then stirred for 1 hour. After this time, a saturated aqueous solution of ammonium chloride was added to the reaction mixture. The aqueous layer was extracted with ethyl acetate, and the organic extract was washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The resulting residue was subjected to column chromatography using 10 g of silica gel with a 5:1 v/v mixture of hexane and ethyl acetate as the eluent, to yield 384 mg of the title compound as an oil.

reactant | sodium hydride | 87 mg | [H-].[Na+]
reactant | benzoyl chloride | 0.12 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | Benzyl 9-benzoyl-1,2,3,4-tetrahydrocarbazole-3-carboxylate | 384 mg | C(C1=CC=CC=C1)(=O)N1C2=CC=CC=C2C=2CC(CCC12)C(=O)OCC1=CC=CC=C1 | C27H23NO3
